US04342780
2-Ethoxy-1-fluoro-3-(4-methoxyphenyl)prop-2-ene (5 g, 0.024 mol) is stirred with a saturated solution of hydrogen chloride in diethyl ether (40 ml) overnight. Water (18 ml) is added and the stirring is continued for another 3 hours. The ether layer is separated, washed with water, dried (MgSO4), and filtered. Concentration of the solvent affords 1-fluoro-3-(4-methoxyphenyl)-2-propanone (4.2 g); NMR (CDCl3): 6.7-7.3 ppm (4H, m), 4.8 ppm (2H, J=48 Hz), 3.7-3.9 ppm (5H, m).

reactant | 2-Ethoxy-1-fluoro-3-(4-methoxyphenyl)prop-2-ene | 0.024 mol, 5 g | C(C)OC(CF)=CC1=CC=C(C=C1)OC | C12H15FO2
reactant | hydrogen chloride | Cl | ClH
reactant | Water | 18 ml | O | H2O
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | 1-fluoro-3-(4-methoxyphenyl)-2-propanone | 4.2 g | FCC(CC1=CC=C(C=C1)OC)=O | C10H11FO2
